* PTM 45nm Metal Gate / High-K  

.INCLUDE 16nm_HP.pm 

.option filetype=ascii

.INCLUDE ST65LIKE_cell_library_v2020_1.net

.PARAM vthVARn=0.3423
.PARAM vthVARp=-0.23122

.PARAM ndepVARn=3.96e+018
.PARAM ndepVARp=1.68e+018

.PARAM toxpVAR=5.21e-010

.PARAM Lmin=51.71336n
.PARAM Wmin=36.05883n

.PARAM XXX=1

.PARAM tr=50p

.TRAN 0.1p 820p

XNOT 0 vcc out in NOT_SUB XX=XXX

Vdd vcc 0 1

Vin in 0 PWL(0 0 200p 0 201p 1 820p 1)
